US07696223B2
c) 2-(5-Bromo-pyridin-3-yl)-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethyl ester
A mixture of 4-bromomethyl-2-(5-bromo-pyridin-3-yl)-thiazole-5-carboxylic acid ethyl ester (880 mg, 2.18 mmol), (2,4-dimethoxy-benzylamino)-acetic acid ethyl ester (552 mg, 2.18 mmol) and potassium carbonate (452 mg, 3.27 mmol) in anhydrous dimethylformamide (8 mL) was stirred at room temperature for 24 h before it was quenched with water, extracted with ethyl acetate. The organic layer was washed with water, brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with a gradient of ethyl acetate and hexanes to give the title compound as a yellow oil (495 mg): MS: (+) m/z 600.40, 602.20 (M+Na+, 79Br/81Br).

reactant | 4-bromomethyl-2-(5-bromo-pyridin-3-yl)-thiazole-5-carboxylic acid ethyl ester | 2.18 mmol, 880 mg | C(C)OC(=O)C1=C(N=C(S1)C=1C=NC=C(C1)Br)CBr | C12H10Br2N2O2S
reactant | (2,4-dimethoxy-benzylamino)-acetic acid ethyl ester | 2.18 mmol, 552 mg | C(C)OC(CNCC1=C(C=C(C=C1)OC)OC)=O | C13H19NO4
reactant | potassium carbonate | 3.27 mmol, 452 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 2-(5-Bromo-pyridin-3-yl)-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethyl ester | 495 mg | C(C)OC(=O)C1=C(N=C(S1)C=1C=NC=C(C1)Br)CN(CC(=O)OCC)CC1=C(C=C(C=C1)OC)OC | C25H28BrN3O6S
